Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypercalcemia, transfer from OSH
 
Major Surgical or Invasive Procedure:
___ - US-guided biopsy of soft tissue metastasis by ___
 
History of Present Illness:
___ with PMHx of HTN, HLD, DM, h/o diverticulosis, who
presented ___ with several weeks of R arm pain, lethargy, 
unsteady gait, to PCP. He had also noticed 20 pound 
unintentional weight loss, slowed gait, and general decline in 
functional status.  He has been fatigued, and had trouble 
staying steady on his feet.  He had a fall, without syncope, at 
work when he ended up on the floor.  The arm pain was initially 
attributed to a flu shot but persisted for several weeks.  He 
also endorsed nocturia which he felt was due to diabetes.  Labs 
were done, he was found to have elevated Calcium to 14, and was 
sent to ___.

At ___, Calcium 15.1 -> 14 -> 11.9 with IVF, calcitonin. 
Also found to have ___ (Cr 2.2->1.8->1.47). CT head showed R 
cerebral edema with concern for underlying mass, and MRI brain 
showed evidence of multiple metastatic lesions. It was discussed 
with ___ who recommended transfer to ___. Held 
Lisinopril, HCTZ, Metformin and Glyburide.  Endocrine and 
Neurology saw patient. Held off on CT scan torso and 
bisphosphonates pending further improvement in Cr. 

Per patient, wife, and daughter, his speech and attention have 
been better following IV fluids and correction of hypercalcemia.

Other than arm pain, he has also had intermittent low back pain 
if he leans forward in a chair for a long period of time.

He also tells me of a Supranasal visual field defect, which has 
been followed with routine exams by a Neuro-Ophtho at Mass Eye 
and Ear.  It had not been appreciably changing until his last 
examination there, in which it was found to be possibly slightly 
worse.  The etiology was thought to be possibly Glaucoma but 
unclear.
 
Past Medical History:
DM
diverticulosis
HLD
HTN 
seborrheic keratosis
actinic keratosis
? Cataracts
Supranasal visual field defect - followed by Neuro-Optho at Mass 
eye and Ear with routine exams
 
Social History:
___
Family History:
Mother and father still alive, in their ___. Father with ___. 
 Brother with CAD.  Other brother with tongue SCC. MGF with 
colon cancer. 
 
Physical Exam:
ADMISSION EXAM
==============
Vitals:  98.6, HR 92, RR 20, 136/71, 97% RA
General: Alert, oriented x3, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no appreciable thyroid mass
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, S1, S2, No MRG  
Abdomen: soft, NT/ND, bowel sounds present, no rebound 
tenderness or guarding, no flank masses
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro:  CN2-12 intact. No gross focal or sensory deficits
Skin:  Good skin turgor

DISCHARGE EXAM
==============
Vitals: T: 97.9 BP: 133/73 P: 78 RR: 20 Sp02: 95 RA 
General: Alert, no acute distress, sitting on the edge of the 
bed
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple
Lungs: CTAB, no w/r/r 
CV: RRR, no murmurs
Abdomen: soft, NT/ND, bowel sounds present, no rebound 
tenderness or guarding, no masses appreciated
Ext: Warm, well perfused, 2+ pulses, no edema  
Neuro:  Alert. Oriented x3. No gait deficits. No pronator drift.
 
Pertinent Results:
ADMISSION LABS
=================
___ 05:40AM BLOOD WBC-6.4 RBC-3.22*# Hgb-9.2* Hct-26.9*# 
MCV-84 MCH-28.6 MCHC-34.2 RDW-13.1 RDWSD-39.7 Plt ___
___ 09:20PM BLOOD Glucose-194* UreaN-22* Creat-1.2 Na-137 
K-4.4 Cl-103 HCO3-21* AnGap-17
___ 09:20PM BLOOD Calcium-10.7* Phos-1.4* Mg-1.6
___ 09:20PM BLOOD PTH-7*

PERTINENT LABS
================
___ 05:40AM BLOOD PSA-2.3

REPORTS
============
CT Head ___. Edema of the right frontal lobe with mass effect, but no 
significant midline shift concerning for underlying mass.  
Recommend further evaluation with MRI of the brain with 
contrast.
2. No definite evidence of intracranial hemorrhage.
3. Paranasal sinus disease, as described.

MRI Brain ___
Multiple enhancing lesions within the brain, suspicious for 
metastatic disease.  Please see above report for details. 
Oncological and radiation oncology consultations are advised to 
be obtained on a prompt basis.

Renal US ___. No hydronephrosis or nephrolithiasis.
2. 5.5 x 3.8 x 5.7 cm mildly echogenic mass in the lower pole of 
the right kidney.  Further evaluation with non-urgent MRI is 
recommended.
3. Mild splenomegaly.

RUE US ___
No evidence of deep vein thrombosis in the right upper 
extremity.

XR R Humerus ___ cm lytic lesion in the right humerus concerning for 
metastatic lesion.

CXR ___
Heart, mediastinum and the lung fields are within normal limits. 
 No focal bony lesion.

Neck US ___
Soft tissue nodule at base of right neck is well identified and 
amenable to ultrasound-guided biopsy. 

CT Chest ___. Multiple pulmonary nodules measuring up to 12 mm concerning 
for metastatic disease.  Paraspinal intramuscular lesion 
measuring 14 mm at the thoracic inlet concerning for metastatic 
disease.  Known right humeral lytic lesion represents bony 
metastasis. 
2. 19 x 14 mm thyroid nodule.  Ultrasound may be performed on a 
nonemergent basis to further assess. 

CT A/P ___. Right lower pole renal mass measuring up to 7.4 cm is highly 
suspicious for renal cell carcinoma, potentially an atypical 
subtype suggest sarcomatous or medullary renal cell carcinoma.  
Biopsy is recommended. 
2. Top-normal retroperitoneal and porta hepatis lymph nodes do 
not meet strict CT size criteria for pathologic enlargement but 
remain suspicious for local metastatic disease. 
3. An indeterminate right adrenal nodule and a small hepatic 
hypodensity are also worrisome for sites of metastatic 
involvement. 
4. Extensive diverticulosis. 
5. Please see the separately submitted report of the same day CT 
Chest for findings above the diaphragm.

MICROBIOLOGY
=============
Urine culture - negative

PERTINENT LABS
==============
___ 09:20PM BLOOD PTH-7*
___ 05:40AM BLOOD PEP-NO SPECIFI
___ 09:43PM URINE RBC->182* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 09:43PM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-300 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

DISCHARGE LABS
==============
___ 07:55AM BLOOD WBC-8.6 RBC-3.59* Hgb-9.6* Hct-30.6* 
MCV-85 MCH-26.7 MCHC-31.4* RDW-13.5 RDWSD-41.4 Plt ___
___ 07:55AM BLOOD Glucose-254* UreaN-31* Creat-1.4* Na-139 
K-4.5 Cl-104 HCO3-20* AnGap-20
___ 07:55AM BLOOD Albumin-3.5 Calcium-9.5 Phos-3.1 Mg-2.___ y/o M with a h/o HTN, HLD, DM, who presented initially with 
arm pain, a fall, and weakness, found to have hypercalcemia, 
renal mass, and multiple sites of metastatic malignancy 
including the brain, all likely due to suspected new dx of RCC.

ACTIVE ISSUES
=============
# Hypercalcemia:  Most likely hypercalcemia of malignancy.  Low 
PTH and low Phos points to likelihood of PTHrP-driven process, 
esp given likely renal cell carcinoma. PTHrP ultimately came 
back as elevated in OSH records. He received IVF, Calcitonin, 
and Bisphosphonate at OSH. IVF was continued at ___, and his 
calcium downtrended.  Of note, with this improvement in serum Ca 
came an improvement in mental status.  Endocrine was consulted.  
The day prior to discharge, IVF was stopped. His follow up 
calcium the next morning was stable, and thus he was discharged 
home. PCP was aware and placed a standing order for outpatient 
electrolyte monitoring.  Home thiazide was stopped. PTHrP, 
1,25-vitamin D pending on discharge.

# Metastatic Malignancy, suspected RCC: Workup to this point is 
notable for multiple sites of involvement, including brain mets, 
humeral lytic lesion, pulmonary nodules, soft tissue nodule at 
base of right neck, possible adrenal and hepatic nodules.  Renal 
Cell Carcinoma is the most likely site of involvement given 
complete clinical picture, and elevated PTHrP is often 
associated with this.  Does have a FHx colon cancer, but is UTD 
on screening for this (last ___ ___ with rec'd ___ year f/u). 
PSA wnl also. He received Biopsy of neck soft tissue met with ___ 
on ___. General Onc, Neuro Onc, NSGY, and Rad Onc were all 
consulted/ Pt to be discussed at tumor board on ___.  
Oncology will contact him for follow-up plan on finalization of 
the pathology.  Tylenol, Oxycodone were used PRN for pain.  
Started Keppra 500mg BID for seizure ppx.  Also started Decadron 
4mg BID, later transitioned to 4mg once daily on discharge.  
Held home ASA for now in case intervention is pursued as 
outpatient (was taking for primary prevention). ___ and OT were 
consulted, recommending rolling walker and outpatient ___. SPEP 
and UPEP negative.  Urine cytology negative for high grade 
malignant cells.

# Anemia: Likely a combination of dilutional from IVF as well as 
anemia of chronic disease. No evidence of hemodynamically 
unstable bleeding, though did have hematuria on ___. Iron 
studies w/o deficiency.  Hemolysis labs unrevealing.

# Hematuria: Noted on ___ by nursing. Could be related to 
malignancy in kidney, vs less likely UTI as no infectious 
symptoms.  UA showed RBC's.  Culture negative.

# ___ on CKD: Cr 2.19 on arrival to OSH, improved with IVF, 1.4 
on discharge (although 1.2 day prior to discharge). Likely was 
pre-renal in setting of volume depletion from 
hypercalcemia-induced polyuria. Held nephrotoxins.  PCP placed 
standing order for electrolyte recheck.

# Elevated uric acid: 9.8 at OSH, 6.6>6.3 here.

# Low vitamin D: deferred on repletion for now given 
hypercalcemia

CHRONIC ISSUES
===============
# DM: Last A1C 7.0%.  ISS used in house.  Held home metformin, 
and resumed glyburide on discharge

# HTN: held home meds (Lisinopril, HCTZ), given ___ and 
hypercalcemia

# HLD: c/h atorvastatin

TRANSITIONAL ISSUES
===================
- Recheck Chem 10 (specifically for Ca, Phos, BUN/Cr) on ___ 
to ensure it is stable at home. His PCP has placed ___ standing 
order for this.
- Instructed to increase glyburide if blood sugar increased 
above 150 consistently. 
- Biopsy results pending at discharge. Unable to make Oncology 
appointment prior to tissue diagnosis. He will be contacted when 
results return, and Onc follow up will be arranged
- He will be discussed at ___ tumor board on ___
- Neuro-Oncology was e-mailed to schedule follow-up. 
- Pending labs on discharge: Vitamin D, PTHrP
- ___ recommends home ___ as well as a rolling walker
- Started on Keppra 500mg BID for seizure prophylaxis
- Started on Decahedron 4mg daily (initially started as BID) 
given brain metastasis
- Stopped Lisinopril/HCTZ combo pill given hypercalcemia and ___
- Stopped Aspirin for now in case intervention pursued on brain 
metastasis
- Found a 19 x 14 mm thyroid nodule. Ultrasound may be performed 
on a nonemergent basis to further assess.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. GlyBURIDE 5 mg PO BID 
2. MetFORMIN (Glucophage) 1000 mg PO BID 
3. Atorvastatin 10 mg PO QPM 
4. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
5. Aspirin 81 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Dexamethasone 4 mg PO DAILY 
RX *dexamethasone 4 mg 1 tablet(s) by mouth once a day Disp #*20 
Tablet Refills:*0 
2.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*12 Capsule Refills:*0 
4.  Atorvastatin 10 mg PO QPM  
5.  GlyBURIDE 5 mg PO BID  
6.  Multivitamins 1 TAB PO DAILY  
7. HELD- MetFORMIN (Glucophage) 1000 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until creatnine 
has improved. 
8.Rolling Walker
Rolling Walker
Dx: ___.9 (ICD-10)
Px: Good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Metastatic malignancy of likely renal origin
Hypercalcemia of malignancy

Secondary:
DM, HTN, HLD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dr. ___,

___ was a pleasure caring for you at ___.  You were admitted to 
our hospital because of elevated calcium.  You were found to 
have evidence of a metastatic cancer on your imaging (x-ray, 
CT's and MRI).  The most likely source of this is a Renal Cell 
Carcinoma in your kidney, but we will not know this for sure 
until the biopsy results come back.

You will be contacted to schedule an oncology appointment, and 
from there the oncologists will coordinate follow-up with all 
other specialists that may need to be involved, such as 
Neurosurgery and Radiation Oncology.

Please get your calcium rechecked in ___ days to make sure it is 
still stable.  Your PCP has placed ___ standing order for this.

Please check you sugars before meals and at bedtime, if your 
blood sugar is increasing 150 consistently in the morning 
(fasting), please increase you glyburide to 10 mg twice daily. 

It was a pleasure and we wish you all the best,
___ Team
 
Followup Instructions:
___